US06429315B1
A mixture of 100 g (0.52 mol, 1 eq.) of 2,4-dichloro-3-nitropyridine, 105 g (1.81 mol, 3.48 eq.) of potassium fluoride and 11.73 g (0.036 mol, 0.07 eq.) of tetrabutylammonium bromide (TBAB) in 500 ml of toluene and 330 ml of 1-methyl-2-pyrrolidinone is heated with stirring in a first reaction vessel at 115-120 ° C. for 4.5 hours. The reaction mixture is cooled to 20° C. and filtered into a second reaction vessel using 170 ml of 1-methylpyrrolidinone to transfer the batch. 160 g (0.456 mol. 0.88 eq.) of (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide lithium salt is then added to the mixture at 35° C. The reaction mixture is stirred at 85° C. for 3.5 hours and then cooled to 20° C. The cooled mixture is partitioned between 500 ml of brine, 1.6 L tert-butylmethyl ether and 200 ml of toluene. The organic layer is washed with 1 L of water, dried over magnesium sulfate and concentrated under reduced pressure. The resulting solid is dissolved in 200 ml of ethyl acetate and triturated with 65 ml of heptane. The mixture is cooled at −6° C. for 48 hours and the resulting solid is isolated by filtration and washed with a cold (−8° C.) mixture of ethyl acetate/heptane (4:1 v/v). The solid is dried under vacuum with a nitrogen bleed at 40-45° C. to give (R)-N-[1-[3-chlorothien-2-yl )methyl]propyl]-N-(2-fluoro-3-nitropyrid-4-yl)-4-methylbenzenesulfonamide (138.7 g. 63% yield. 95.4 A% pure (HPLC)).

reactant | 2,4-dichloro-3-nitropyridine | 0.52 mol, 100 g, 1 eq. | ClC1=NC=CC(=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | potassium fluoride | 1.81 mol, 105 g, 3.48 eq. | [F-].[K+]
reactant | (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide lithium salt | 0.456 mol, 160 g, 0.88 eq. | [Li].ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C1=CC=C(C=C1)C
catalyst | tetrabutylammonium bromide | 0.036 mol, 11.73 g, 0.07 eq. | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1-methyl-2-pyrrolidinone | 330 ml | CN1C(CCC1)=O | C5H9NO
product | N-(2-fluoro-3-nitropyrid-4-yl)-4-methylbenzenesulfonamide | 138.7 g, 63% yield | FC1=NC=CC(=C1[N+](=O)[O-])NS(=O)(=O)C1=CC=C(C=C1)C | C12H10FN3O4S
